US08198311B2
A solution of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-methyl-3-phenylpropanoyl fluoride (0.32 mmol) in anhydrous THF (5 mL) at −78° C. was bubbled NH3 (g) for 10 minutes. The reaction mixture was sealed and stirred at −78° C. for 15 min and at rt for 1 hr. Water (100 mL) was added, the reaction mixture was extracted with ethyl acetate (100 mL), dried (Na2SO4), and concentrated to give 115 mg (100% yield) of 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-methyl-3-phenylpropanamide, the NMR spectrum of which was consistent with the desired structure.

reactant | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-methyl-3-phenylpropanoyl fluoride | 0.32 mmol | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)F)C)C1=CC=CC=C1 | C23H18F2N2O
reactant | NH3 | N | H3N
reactant | Water | 100 mL | O | H2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | 3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2-methyl-3-phenylpropanamide | 115 mg, 100% yield | FC1=CC=C(C=C1)N1N=CC2=CC(=CC=C12)C(C(C(=O)N)C)C1=CC=CC=C1 | C23H20FN3O
